US04239901
340 mg of red phosphorus and 110 mg of iodine are added to 10 ml of glacial acetic acid. After 15 minutes, 2.8 g (0.01 mole) of 4-(4-chloropyrazol-1-yl) mandelic acid are added; heating under reflux is effected for 4 hours, followed by cooling, filtration, pouring on to a sodium sulphite solution and extraction with ether. The ethereal solution is dried and concentrated. 4-(4-chloropyrazol-1-yl) phenylacetic acid (m.p. 176°-178° C.) is obtained.

reactant | iodine | 110 mg | II | I2
reactant | 4-(4-chloropyrazol-1-yl) mandelic acid | 0.01 mole, 2.8 g | ClC=1C=NN(C1)C1=CC=C(C(C(=O)O)O)C=C1 | C11H9ClN2O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chloropyrazol-1-yl) phenylacetic acid | ClC=1C=NN(C1)C1=CC=C(C=C1)CC(=O)O | C11H9ClN2O2
